US04042694
2-Cinnamyl-8-cyclopropylmethyl-5,5-di(1-propyl)-10-[4-(pyrrolidino)butyryloxy]-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride
2-Cinnamyl-8-cyclopropylmethyl-5,5-di(1-propyl)-10-hydroxy-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine, γ-pyrrolidinobutyric acid hydrochloride and dicyclohexyl-carbodiimide are reacted in equimolar amounts according to Example 1 to form the desired product.

reactant | 2-Cinnamyl-8-cyclopropylmethyl-5,5-di(1-propyl)-10-hydroxy-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine | C(C=CC1=CC=CC=C1)N1CCC2=C(C1)C1=C(OC2(CCC)CCC)C=C(C=C1O)CC1CC1 | C31H39NO2
reactant | γ-pyrrolidinobutyric acid hydrochloride | Cl.N1(CCCC1)CCCC(=O)O
reactant | dicyclohexyl-carbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 2-Cinnamyl-8-cyclopropylmethyl-5,5-di(1-propyl)-10-[4-(pyrrolidino)butyryloxy]-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride | Cl.C(C=CC1=CC=CC=C1)N1CCC2=C(C1)C1=C(OC2(CCC)CCC)C=C(C=C1OC(CCCN1CCCC1)=O)CC1CC1 | InChI=1S/C39H52N2O3.ClH/c1-3-19-39(20-4-2)34-18-25-41(24-10-14-30-12-6-5-7-13-30)29-33(34)38-35(27-32(26-31-16-17-31)28-36(38)44-39)43-37(42)15-11-23-40-21-8-9-22-40;/h5-7,10,12-14,27-28,31H,3-4,8-9,11,15-26,29H2,1-2H3;1H
